* Circuit2Sim - Universal SPICE Netlist
* Model: Project 455664a5 Schematic Model
* Compatible with: LTspice, ngspice, PSpice, Multisim, PLECS
* -------------------------------------------------------------

R1 N1_VIN N2 10000.0
R2 N2 N3 1000.0
L3 N3 N4 0.001
D4 N4 N5 DMOD
.model DMOD D (Is=1e-14 Rs=0.01 N=1 Cjo=2p)
R5 N5 N6 10000.0
L6 N6 N7 0.001
R7 N7 N8 10000.0
R8 N8 N9 10000.0
L9 N9 N10 0.001
* GND10 Reference Ground Node 0
C11 N10 N11 1e-06
* GND12 Reference Ground Node 0
V13 N1_VIN 0 DC 12.0
C14 N11 N12 1e-06
C15 N12 N13 1e-06
R16 N13 N14 10000.0
* GND17 Reference Ground Node 0
* GND18 Reference Ground Node 0
* GND19 Reference Ground Node 0
* GND20 Reference Ground Node 0
* GND21 Reference Ground Node 0
R22 N14 N15 10000.0
R23 N15 N16 10000.0
L24 N16 N17 0.001
R25 N17 N18 10000.0
R26 N18 0 10000.0

* Transient analysis: start 0, stop 10ms, step 1us
.tran 1u 10m
.end