* Circuit2Sim - Universal SPICE Netlist
* Model: KONE BCX14 Isolated DC Voltage Measurement Subcircuit
* Compatible with: LTspice, ngspice, PSpice, Multisim, PLECS
* -------------------------------------------------------------

V_UDC N_UDC_POS 0 DC 600.0
R96 N_DIV1 N_UDC_POS 221000.0
R87 N_DIV2 N_DIV1 221000.0
R169 N_VINP N_DIV2 221000.0
C40 N_VINP 0 1e-07
R91 N_VINP 0 332.0
C59 N_NC1 0 1e-07
C60 N_VOUTP N_OPA_IN_N 1e-07
R89 N_OPA_IN_P N_VOUTP 10000.0
R94 N_OPA_IN_N 0 10000.0
R86 0 N_OPA_IN_P 10000.0
R95 N_OPA_OUT N_OPA_IN_N 10000.0
R7 N_UDC_MEAS N_OPA_OUT 1000.0
C41 N_UDC_MEAS 0 1e-08
* GND1 Reference Ground Node 0

* Transient analysis: start 0, stop 10ms, step 1us
.tran 1u 10m
.end