* Circuit2Sim - Universal SPICE Netlist
* Model: Current-Driven Parallel RLC Tank Resonator
* Compatible with: LTspice, ngspice, PSpice, Multisim, PLECS
* -------------------------------------------------------------

L1 N_TANK 0 0.001
C1 N_TANK 0 1e-07
R1 N_TANK 0 5000.0
* GND1 Reference Ground Node 0

* Transient analysis: start 0, stop 10ms, step 1us
.tran 1u 10m
.end