* Circuit2Sim - Universal SPICE Netlist
* Model: Untitled Circuit
* Compatible with: LTspice, ngspice, PSpice, Multisim, PLECS
* -------------------------------------------------------------

V_BUS N_BUS 0 DC 24.0
R_SHUNT N_BUS N_LOAD 0.05
R_LOAD N_LOAD 0 12.0
R_FILT N_LOAD N_SENSE 100.0
C_FILT N_SENSE 0 1e-07
* GND1 Reference Ground Node 0

* Transient analysis: start 0, stop 10ms, step 1us
.tran 1u 10m
.end