* Circuit2Sim - Universal SPICE Netlist
* Model: Project f33cebc6 Schematic Model
* Compatible with: LTspice, ngspice, PSpice, Multisim, PLECS
* -------------------------------------------------------------

R1 N1_VIN N2 10000.0
R2 N2 N3 1000.0
R3 N3 N4 1000.0
R4 N4 N5 10000.0
R5 N5 N6 1000.0
R6 N6 N7 1000.0
R7 N7 N8 10000.0
R8 N8 N9 10000.0
R9 N9 N10 1000.0
R10 N10 N11 10000.0
R11 N11 N12 1000.0
C12 N12 N13 1e-06
* GND13 Reference Ground Node 0
V14 N1_VIN 0 DC 12.0
C15 N13 N14 1e-06
R16 N14 N15 10000.0
* GND17 Reference Ground Node 0
* GND18 Reference Ground Node 0
* GND19 Reference Ground Node 0
* GND20 Reference Ground Node 0
L21 N15 N16 0.001
R22 N16 N17 10000.0
R23 N17 N18 10000.0
* GND24 Reference Ground Node 0
* GND25 Reference Ground Node 0
R26 N18 N19 10000.0
L27 N19 0 0.001

* Transient analysis: start 0, stop 10ms, step 1us
.tran 1u 10m
.end