* Circuit2Sim - Universal SPICE Netlist
* Model: Project fc6b2e73 Schematic Model
* Compatible with: LTspice, ngspice, PSpice, Multisim, PLECS
* -------------------------------------------------------------

V1 N1_VIN 0 DC 12.0
R1 N1_VIN N2 10000.0
C1 N2 0 1e-07
* GND1 Reference Ground Node 0

* Transient analysis: start 0, stop 10ms, step 1us
.tran 1u 10m
.end